US07230007B2
1.6 cm3 of 10N sodium hydroxide solution were added to methyl 1-(pyridine-2-yl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylate in 15 cm3 of tetrahydrofuran. After stirring at reflux of the solvent for 200 h, the reaction mixture was acidified with 2 cm3 of 10N hydrochloric acid and then concentrated to dryness under reduced pressure (2.7 kPa) to give 1-(pyridin-2-yl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid in the form of a brown powder, characterized by LC/MS (m/z 240 [MH]+), which was used directly in the following stage.

reactant | sodium hydroxide | 10N, 1.6 cm3 | [OH-].[Na+]
reactant | methyl 1-(pyridine-2-yl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylate | N1=C(C=CC=C1)N1C=C(C=2C1=NC=CC2)C(=O)OC | C14H11N3O2
reactant | hydrochloric acid | 10N, 2 cm3 | Cl | ClH
solvent | tetrahydrofuran | 15 cm3 | O1CCCC1 | C4H8O
product | 1-(pyridin-2-yl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid | N1=C(C=CC=C1)N1C=C(C=2C1=NC=CC2)C(=O)O | C13H9N3O2
